US08211919B2
To a suspension of N-[4-(4-pyridinyl)phenyl]-1-tert-butoxycarbonylindoline-2-carboxamide (100 mg) in ethyl acetate (0.60 mL) was added 4N hydrogen chloride-ethyl acetate (2.41 mL) and the mixture was stirred at ambient temperature for 1.5 hours. The resulting mixture was diluted with n-hexane (6.0 mL) and the solid was collected by filtration, and then washed with ethyl acetate/n-hexane (1:2, 1.0 mL) to give N-[4-(4-pyridinyl)phenyl]indoline-2-carboxamide (80 mg) as off-white crystals.

reactant | N-[4-(4-pyridinyl)phenyl]-1-tert-butoxycarbonylindoline-2-carboxamide | 100 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C25H25N3O3
reactant | hydrogen chloride-ethyl acetate | 4N, 2.41 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 0.60 mL | C(C)(=O)OCC | C4H8O2
solvent | n-hexane | 6.0 mL | CCCCCC | C6H14
product | N-[4-(4-pyridinyl)phenyl]indoline-2-carboxamide | 80 mg | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C1NC2=CC=CC=C2C1 | C20H17N3O
